US06403610B1
0.041 g of tetrakis(triphenylphosphine)palladium and 0.070 g of cuprous iodide were added, at a temperature in the region of 20° C. and under an inert atmosphere, to a stirred solution of 0.7 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-carboxylate in 14 cm3 of acetonitrile. 0.32 cm3 of 1-fluoro-2-iodobenzene and 0.51 cm3 of triethylamine were subsequently added. The mixture was stirred at a temperature in the region of 20° C. for 20 hours. The reaction mixture was filtered and the cake was washed with 3 times 10 cm3 of acetonitrile. The combined filtrates were taken up with stirring in a mixture of 100 cm3 of dichloromethane and 100 cm3 of water. The organic phase was separated by settling, washed with 3 times 50 cm3 of a saturated sodium chloride solution, dried over magnesium sulfate, and then, after filtration, concentrated under reduced pressure (2 kPa) at a temperature in the region of 35° C. The residue obtained was purified by chromatography under argon pressure (50 kPa) on a column of silica gel (particle size 40-63 μm; diameter 4 cm; height 14 cm), elution was carried out with ethyl acetate, and 2-cm3 fractions were collected. Fractions 33 to 160 were combined and then evaporated under reduced pressure (2 kPa) at a temperature in the region of 40° C. 0.56 g of methyl (3R,4R)-4-(3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2-fluorophenyl)prop-2-ynyl]piperidine-3-carboxylate was obtained in the form of an oil with a light brown color.

reactant | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-carboxylate | 0.7 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#C)C(=O)OC | C23H28N2O3
reactant | 1-fluoro-2-iodobenzene | 0.32 cm3 | FC1=C(C=CC=C1)I | C6H4FI
reactant | triethylamine | 0.51 cm3 | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 14 cm3 | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium | 0.041 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl (3R,4R)-4-(3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2-fluorophenyl)prop-2-ynyl]piperidine-3-carboxylate | 0.56 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#CC1=C(C=CC=C1)F)C(=O)OC | C29H31FN2O3
